US04816602
At 0° C. under agitation, 3.75 g of aluminum chloride is added in portions within 45 minutes to a thoroughly stirred suspension of 54.9 g of 2,5-dichloro-2,5-dimethylhexane in 135 ml of 1,1-dichloroethylene. The reaction mixture is then stirred for another 100 minutes at 0° C. and combined with 10 ml of water and 20 g of anhydrous calcium chloride. The mixture is then filtered and the excess 1,1-dichloroethylene removed under vacuum. Yield: 88.4 g of a viscous oil from which, by solid-matter distillation, 17.5 g of 2,5-dichloro-2,5-dimethylhexane is recovered. The residue is distilled, thus obtaining 34.3 g of 1,1,1,6-tetrachloro-3,3,6-trimethylheptane as a slightly yellow oil, boiling point 79°-80° C. under 0.5 mbar.

reactant | aluminum chloride | 3.75 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichloro-2,5-dimethylhexane | 54.9 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | water | 10 ml | O | H2O
reactant | calcium chloride | 20 g | [Cl-].[Ca+2].[Cl-]
reactant | 1,1-dichloroethylene | 135 ml | ClC(=C)Cl | C2H2Cl2
product | 1,1,1,6-tetrachloro-3,3,6-trimethylheptane | 34.3 g | ClC(CC(CCC(C)(C)Cl)(C)C)(Cl)Cl | C10H18Cl4
